### PR TITLE
[Merged by Bors] - feat: the image of a subgraph under its embedding is itself

### PR DESCRIPTION
**Pull request by YaelDillies**
From ExtrProbCombi (LeanCamCombi)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 1]
```diff
@@ -644,6 +644,9 @@ lemma map_monotone : Monotone (Subgraph.map f) := fun _ _ ↦ map_mono
 theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f = H₁.map f ⊔ H₂.map f := by
   ext <;> simp [Set.image_union, map_adj, sup_adj, Relation.Map, or_and_right, exists_or]
 
+@[simp] lemma map_equiv_top {H : SimpleGraph W} (e : G ≃g H) : Subgraph.map e.toHom ⊤ = ⊤ := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:647]: "equiv" doesn't seem the right name for this given that it doesn't contain an "equiv", instead an iso

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 2]
```diff
@@ -718,19 +724,26 @@ protected def hom (x : Subgraph G) : x.coe →g G where
...
     (x.hom : x.verts → V) = (fun (v : x.verts) => (v : V)) := rfl
 
-theorem hom.injective {x : Subgraph G} : Function.Injective x.hom :=
+theorem hom_injective {x : Subgraph G} : Function.Injective x.hom :=
   fun _ _ ↦ Subtype.ext
 
+@[deprecated (since := "2025-03-15")] alias hom.injective := hom_injective
+
+@[simp] lemma map_hom_top (G' : G.Subgraph) : Subgraph.map G'.hom ⊤ = G' := by
+  ext <;> simp [Relation.Map]; exact fun h ↦ ⟨G'.edge_vert h, G'.edge_vert h.symm⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:733]: This `simp` looks like it could break in the future...

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:647]: Indeed

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 3]
```diff
@@ -644,6 +644,9 @@ lemma map_monotone : Monotone (Subgraph.map f) := fun _ _ ↦ map_mono
 theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f = H₁.map f ⊔ H₂.map f := by
   ext <;> simp [Set.image_union, map_adj, sup_adj, Relation.Map, or_and_right, exists_or]
 
+@[simp] lemma map_iso_top {H : SimpleGraph W} (e : G ≃g H) : Subgraph.map e.toHom ⊤ = ⊤ := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:647]: I think this generalises to surjective embeddings? at least syntactically that seems more general

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 4]
```diff
@@ -669,6 +672,9 @@ theorem comap_monotone {G' : SimpleGraph W} (f : G →g G') : Monotone (Subgraph
     intro
     apply h.2
 
+@[simp] lemma comap_equiv_top {H : SimpleGraph W} (e : G ≃g H) : Subgraph.comap e.toHom ⊤ = ⊤ := by
+  ext <;> simp [Relation.Map, e.apply_eq_iff_eq_symm_apply, ← e.map_rel_iff]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:676]: (there's a slightly silly proof of this using `map_le_iff_le_comap` with H' := top and uniqueness of top...)

**Comment by b-mehta** [comment]
bors d+

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:647]: A surjective embedding is the same thing as an isomorphism, no? I don't think we want to "generalise" every single lemma from isomorphisms to surjective embeddings

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:647]: Oops, I meant surjective to the support of H, but anyway that's minor
